US07223862B2
To a mixture of 2-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-(methylthio)acetamide and 50 ml of chloroform, 3.7 g of m-chloroperbenzoic acid were added and stirred at room temperature for 3 days. To the reaction mixture, aqueous sodium bicarbonate solution and aqueous sodium thiosulfate solution were added. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography (eluent: ethyl acetate) to give 3.3 g of 2-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-(methylsulfonyl)acetamide.

reactant | 2-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-(methylthio)acetamide | ClC1=C(OC(C(=O)N)SC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C15H12ClF4N3O4S
reactant | m-chloroperbenzoic acid | 3.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-(methylsulfonyl)acetamide | 3.3 g | ClC1=C(OC(C(=O)N)S(=O)(=O)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C15H12ClF4N3O6S
